US08377968B2
C. Synthesis of 3-bromo-5-(trifluoromethyl)-N-((1-(2-(trifluoromethylsulfonamido)ethyl)piperidin-4-yl)methyl)benzamide (Compound 116)
To a solution of 3-bromo-5-(trifluoromethyl)benzoic acid (0.1 g, 0.37 mmol) in CH2Cl2 (4 mL) was added DIPEA (0.3 mL, 1.8 mmol), N-(2-(4-(aminomethyl) piperidin-1-yl)ethyl)-1,1,1-trifluoromethanesulfonamide dihydrochloride salt (0.1 g, 0.3 mmol) and HATU (0.17 g, 0.4 mmol). The reaction mixture was stirred at room temperature for 2 h. The organic layer was washed with sat. NaHCO3 aq. (8 mL), dried over Na2SO4, and concentrated to give crude product as gummy solid. Purification of the crude material was done using High Throughput Purification System (HiTOPs).

reactant | 3-bromo-5-(trifluoromethyl)benzoic acid | 0.37 mmol, 0.1 g | BrC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4BrF3O2
reactant | DIPEA | 1.8 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-(4-(aminomethyl) piperidin-1-yl)ethyl)-1,1,1-trifluoromethanesulfonamide dihydrochloride salt | 0.3 mmol, 0.1 g | Cl.Cl.NCC1CCN(CC1)CCNS(=O)(=O)C(F)(F)F
reactant | HATU | 0.4 mmol, 0.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-(trifluoromethyl)-N-((1-(2-(trifluoromethylsulfonamido)ethyl)piperidin-4-yl)methyl)benzamide | BrC=1C=C(C(=O)NCC2CCN(CC2)CCNS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F | C17H20BrF6N3O3S
